US09315521B2
To a 0° C. mixture of 4-(bromomethyl)-3,5-dimethylpyridine (18.6 mmol) and 6-methyl-2-sulfanylpyrimidin-4-ol (1.7 g, 12 mmol) in absolute ethanol (170 mL) was added triethylamine (8 mL, 57.4 mmol). The mixture was stirred at room temperature overnight. The solid precipitate was removed by filtration. Diethyl ether (300 mL) was added to the filtrate. The precipitate was removed by filtration. The filtrate was recovered, evaporated, and co-evaporated with EtOAc (1×50 mL). The residue was treated with water (300 mL). The solid material was recovered by filtration, washed with water (4×30 mL), diethyl ether (3×30 mL) and hexanes (2×30 mL), and dried in vacuo, affording 2-{[(3,5-dimethylpyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (1.78 g, 57% yield). The product was used without further purification.

reactant | 4-(bromomethyl)-3,5-dimethylpyridine | 18.6 mmol | BrCC1=C(C=NC=C1C)C | C8H10BrN
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 12 mmol, 1.7 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 57.4 mmol, 8 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 170 mL | C(C)O | C2H6O
product | 2-{[(3,5-dimethylpyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 1.78 g, 57% yield | CC=1C=NC=C(C1CSC1=NC(=CC(=N1)O)C)C | C13H15N3OS
